US07939569B1
A mixture of 2,4-difluoro-4′-(3-nitro-benzyloxy)-biphenyl (26.3 mg, 0.077 mmol) and 10% Pd/C (5.3 mg) in EtOH (3 mL) containing 2 drops 2N HCl was hydrogenated at 50 psi for 2 hrs. The reaction mixture was filtered and evaporated. The crude product was dissolved in DMF (1 mL) with rac-(trans)-cyclopentane-1,2-dicarboxylic acid monobenzyl ester (19.5 mg, 0.77 mmol), triethylamine (32 uL, 0.231 mmol) and BOP (33 mg, 0.077 mmol). The mixture was stirred for 1 hr at RT. DMAP (1 mg) was added and stirring continued overnight. The reaction mixture was diluted with EtOAc (20 mL), washed with 2.5% KHSO4 (3×10 mL), 50% saturated NaHCO3 (10 mL), saturated NaCl (10 mL), dried over MgSO4, filtered and evaporated. The crude ester was purified by flash chromatography with a 0-20% gradient of ethyl acetate in hexanes to yield 18.3 mg of (trans)-2-[3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-phenylcarbamoyl]-cyclopentanecarboxylic acid benzyl ester as a clear oil. This material was dissolved in EtOH (3 mL) with 10% Pd/C (4 mg) and hydrogenated at 50 psi for 1 hr. The reaction mixture was filtered through Celite and evaporated to give (trans)-2-[3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-phenylcarbamoyl]-cyclopentanecarboxylic acid as a white solid (16.4 mg, 47%). LC-MS (ES) calculated for C26H23F2NO4, 451.47; found m/z 450.2 [M−H]−.

reactant | 2,4-difluoro-4′-(3-nitro-benzyloxy)-biphenyl | 0.077 mmol, 26.3 mg | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OCC1=CC(=CC=C1)[N+](=O)[O-] | C19H13F2NO3
reactant | rac-(trans)-cyclopentane-1,2-dicarboxylic acid monobenzyl ester | 0.77 mmol, 19.5 mg | C(C1=CC=CC=C1)OC(=O)[C@H]1[C@@H](CCC1)C(=O)O | C14H16O4
reactant | triethylamine | 0.231 mmol, 32 uL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.077 mmol, 33 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | HCl | 2N, 2 drops | Cl | ClH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 5.3 mg | [Pd] | Pd
product | (trans)-2-[3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-phenylcarbamoyl]-cyclopentanecarboxylic acid benzyl ester | 18.3 mg | C(C1=CC=CC=C1)OC(=O)[C@H]1[C@@H](CCC1)C(NC1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C33H29F2NO4
